US04452990
Five grams of dihydro 1H-pyrrolizine-3,5(2H, 6H) dione is dissolved in 31 g of p-chlorobenzyl alcohol and 0.2 ml of concentrated hydrochloric acid is added. The solution is heated at 100° C. for 65 hours. The mixture is cooled and chromatographed over silica gel in dichloromethane. The starting p-chlorobenzyl alcohol is eluted with dichloromethane and the product is eluted with 2.5% methanol in dichloromethane. The eluate containing the product is concentrated at reduce pressure and the residual oil solidifies upon standing. The solid is recrystallized from toluene-diethyl ether to yield 5-oxo-2-pyrrolidinepropanoic acid p-chlorobenzyl ester with a melting point of 63°-64° C.

reactant | dihydro 1H-pyrrolizine-3,5(2H, 6H) dione | Five grams | C1CC(N2C(CCC12)=O)=O | C7H9NO2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | p-chlorobenzyl alcohol | 31 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
product | 5-oxo-2-pyrrolidinepropanoic acid p-chlorobenzyl ester | ClC1=CC=C(COC(CCC2NC(CC2)=O)=O)C=C1 | C14H16ClNO3
